US05506267
4 -[6,7,bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoylglutamic acid
A solution of 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester as obtained in Example 39 (325 mg) in dichloromethane (0.5 ml)-trifiuoroacetic acid (1 ml) was stirred at room temperature for 30 minutes. After solvent concentration under reduced pressure, the resulting residue was crystallized from methanol-water to yield the title compound (231 mg, yield 80%) as a colorless powder.

reactant | 4-[6,7-bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)CNC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C59H102N2O10S
reactant | trifiuoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 4 -[6,7,bis(palmitoyloxy)-4-thiaheptanoylaminomethyl]benzoylglutamic acid | 231 mg, yield 80% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NCC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)COC(CCCCCCCCCCCCCCC)=O | C51H86N2O10S
